* Simplified Operational Amplifier Model for Xyce
* Based on modamp Verilog-AMS module

.SUBCKT modamp inp inn outp vdd vss
* Simplified behavioral op-amp model

* Input stage - differential pair with bias currents
IB1 inp 0 DC 80n
IB2 inn 0 DC 80n
RD1 inp n7 1Meg
RD2 inn n9 1Meg
CD inp inn 1p

* Voltage offset
VOFF n7 n8 DC 3.5m

* Differential gain stage
EDIFF n11 0 n7 n9 1e6

* Slew rate limiter (simplified with resistor)
RSLEW n11 n12 1k
CSLEW n12 0 0.2u

* First pole (dominant)
EPOLE1 n3 0 n12 0 1e6
RPOLE1 n3 0 1Meg
CPOLE1 n3 0 0.159u

* Second pole
EPOLE2 n5 0 n3 0 1
RPOLE2 n5 0 1
CPOLE2 n5 0 53n

* Output stage with current limit
EOUT n4 0 n5 0 1
ROUT n4 outp 75
ILIM outp 0 LIMIT=-35m 35m

* Voltage limiter
VLIM outp 0 LIMIT=-14 14

.ENDS modamp

* Testbench
VDD vdd 0 DC 15
VSS vss 0 DC -15

* Input signals - differential sine wave
VIN1 inp 0 SIN(0 0.1 1k)
VIN2 inn 0 DC 0

* Instantiate op-amp
X1 inp inn outp vdd vss modamp

* Load resistor
RL outp 0 10k

* Transient analysis
.TRAN 0.01m 5m
.PRINT TRAN V(inp) V(inn) V(outp) I(RL)

.END
